US07893099B2
Step 5: (1R,2R,4S)-2-(morpholine-4-carbonyl)-4-phenylsulfanyl-cyclopentanecarboxylic acid ethyl ester
To a solution of the thiophenol (0.41 mmol) in THF (4 ml) was added NaH (55% in oil, 0.41 mmol) at 22° C. and stirring was continued until gas evolution ceased. To the mixture was added a solution of (1R,2R,4R)-4-methanesulfonyloxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester (0.28 mmol) in THF (4 ml) and stirring was continued at 50° C. until completion of the reaction. The mixture was partitioned between ethyl acetate and water, the organic layer was dried, evaporated and the residue chromatographed on silica using mixtures of cyclohexane and ethyl acetate to give the title compound as pale yellow oil. MS: 364.5 (M+H)+.

reactant | thiophenol | 0.41 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | NaH | 0.41 mmol | [H-].[Na+]
reactant | (1R,2R,4R)-4-methanesulfonyloxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester | 0.28 mmol | C(C)OC(=O)[C@H]1[C@@H](C[C@H](C1)OS(=O)(=O)C)C(=O)N1CCOCC1 | C14H23NO7S
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (1R,2R,4S)-2-(morpholine-4-carbonyl)-4-phenylsulfanyl-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](C[C@@H](C1)SC1=CC=CC=C1)C(=O)N1CCOCC1 | C19H25NO4S
